US07566797B2
3-(isobutyloxy)-bicyclo[2.2.1]heptane-2-carboxylic acid
33.2 g (0.2 mol) bicyclo[2.2.1]heptane dicarboxylic anhydride was charged to 300 ml isobutyl alcohol in a 1 L round bottom flask. The system was refluxed for 2 hours with magnetic stirring. The solvent was then removed by rotary evaporator. The system was then dried and grounded. The product was characterized using FTIR and GC-MS. The yield was quantitative.

reactant | bicyclo[2.2.1]heptane dicarboxylic anhydride | 0.2 mol, 33.2 g | C123C(CC(CC1)C2)C(=O)OC3=O | C9H10O3
solvent | isobutyl alcohol | 300 ml | C(C(C)C)O | C4H10O
product | 3-(isobutyloxy)-bicyclo[2.2.1]heptane-2-carboxylic acid | C(C(C)C)OC1C(C2CCC1C2)C(=O)O | C12H20O3
